US04559349
41.4 g (0.2 mol) of 4-(p-fluorobenzoyl)-piperidine are dissolved in 120 ml of dioxan, and 28.3 g (0.1 mol) of N-(2-bromoethyl)-5-cyano-2-methoxybenzamide are added and the whole is then stirred at room temperature for 60 hours. A solution of potassium carbonate is then added to the reaction mixture and the whole is then extracted with methylene chloride. The methylene chloride solution is washed neutral with water and concentrated in a water-jet vacuum. A light yellow crystalline product remains behind which is suspended in 200 ml of ethanol and stirred for 2 hours. The solid product is then filtered with suction and subsequently washed with 20 ml of ice-cold ethanol. 5-Cyano-N-[2-[4-(p-fluorobenzoyl)-piperidinyl]-ethyl]-2-methoxybenzamide is obtained in the filtration residue in the form of white powder of melting point 167°-169°.

reactant | 4-(p-fluorobenzoyl)-piperidine | 0.2 mol, 41.4 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | N-(2-bromoethyl)-5-cyano-2-methoxybenzamide | 0.1 mol, 28.3 g | BrCCNC(C1=C(C=CC(=C1)C#N)OC)=O | C11H11BrN2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 120 ml | O1CCOCC1 | C4H8O2
product | 5-Cyano-N-[2-[4-(p-fluorobenzoyl)-piperidinyl]-ethyl]-2-methoxybenzamide | C(#N)C=1C=CC(=C(C(=O)NCCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C1)OC | C23H24FN3O3
